US08455475B2
tert-Butyl 8-(2-(trifluoromethyl)pyrimidin-4-yl)-2,8-diazaspiro[4.5]decane-2-carboxylate
4-Chloro-2-(trifluoromethyl)pyrimidine (2.72 mmol, 1 eq.) and isopropanol (4 ml) were introduced into a microwave vessel. tert-Butyl 2,8-diazaspiro[4.5]decane-2-carboxylate (2.72 mmol, 1 eq.) and DIPEA (0.6 ml, 6.8 mmol), 2.5 eq.) were added in succession and the reaction mixture was introduced into a microwave oven at 75° C. for 45 min. After TLC control, the reaction mixture was concentrated on a rotary evaporator. A reddish liquid remained and was diluted with methylene chloride (200 ml). The organic phase was washed with water (2×100 ml) and sat. NaCl solution (50 ml), dried over sodium sulfate and concentrated. The brown liquid residue was purified by column chromatography (silica gel, ethyl acetate). Yield: 47%

reactant | 4-Chloro-2-(trifluoromethyl)pyrimidine | 2.72 mmol, 1 eq. | ClC1=NC(=NC=C1)C(F)(F)F | C5H2ClF3N2
reactant | tert-Butyl 2,8-diazaspiro[4.5]decane-2-carboxylate | 2.72 mmol, 1 eq. | C1N(CCC12CCNCC2)C(=O)OC(C)(C)C | C13H24N2O2
reactant | DIPEA | 6.8 mmol, 0.6 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | isopropanol | 4 ml | C(C)(C)O | C3H8O
product | tert-Butyl 8-(2-(trifluoromethyl)pyrimidin-4-yl)-2,8-diazaspiro[4.5]decane-2-carboxylate | Yield: 47% | FC(C1=NC=CC(=N1)N1CCC2(CCN(C2)C(=O)OC(C)(C)C)CC1)(F)F | C18H25F3N4O2
